US04025528
Ethyl 2-bromo-5-thiazolecarboxylate(10 g), phenol (4.38 g) and potassium carbonate powder (11.7 g) are suspended in dimethylformamide (50 ml) and the suspension is stirred for 3 hours at 80° C. The reaction mixture is treated in the same manner as in Example 1 to give ethyl 2-phenoxy-5-thiazolecarboxylate (10.2 g) boiling at 127°-128° C. at 1 mmHg.

reactant | Ethyl 2-bromo-5-thiazolecarboxylate | 10 g | BrC=1SC(=CN1)C(=O)OCC | C6H6BrNO2S
reactant | phenol | 4.38 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 11.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 2-phenoxy-5-thiazolecarboxylate | 10.2 g | O(C1=CC=CC=C1)C=1SC(=CN1)C(=O)OCC | C12H11NO3S
